US08258160B2
Preparation of N-benzyl-3-methylthiophene-2-carboxamide
To a stirred mixture of 3-methyl-2-thiophenecarboxylic acid (5.00 g, 35.17 mmol), 1-hydroxybenzotriazole (7.13 g, 52.73 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (10.11 g, 52.74 mmol) in anhydrous N,N-dimethylformamide (50 mL) was added N,N-diisopropylethylamine (18.4 mL, 105.6 mmol), followed by benzylamine (3.84 mL, 35.19 mmol). The resulting reaction mixture was stirred at ambient temperature for 18 h, and partitioned between ethyl acetate (200 mL) and 10% aqueous hydrochloric acid (100 mL). The organic layer was washed with 10% aqueous hydrochloric acid (100 mL), saturated aqueous sodium bicarbonate (2×100 mL) and water (100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with 5% ethyl acetate in hexanes to afford the title compound as a colorless solid (6.63 g, 81%): 1H NMR (300 MHz, CDCl3) δ 7.40-7.25 (m, 6H), 6.90 (d, J=4.9 Hz, 1H), 6.08 (br s, 1H), 4.62 (d, J=5.6 Hz, 2H), 2.53 (s, 3H); MS (ES+) m/z 232.3 (M+1).

reactant | 3-methyl-2-thiophenecarboxylic acid | 35.17 mmol, 5.00 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | 1-hydroxybenzotriazole | 52.73 mmol, 7.13 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 52.74 mmol, 10.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 105.6 mmol, 18.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 35.19 mmol, 3.84 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-benzyl-3-methylthiophene-2-carboxamide | 6.63 g, 81% | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1C | C13H13NOS
